US05405861
To thionyl chloride (8.0 ml) was gradually added 5-hydroxymethyl-1-methyl-1H-1,2,4-triazole (0.80 g) at 0° C., followed by refluxing for 3 hours. The reaction mixture was concentrated under reduced pressure. To the concentrate was added diethyl ether, then resulting powdery product was collected by filtration. The powdery product was dissolved in ethanol, to which was added diethyl ether to cause crystallization to afford 5-chloromethyl-1-methyl-1H-1,2,4-triazole hydrochloride (1.1 g) as colorless plates, m.p. 77°-78° C.

reactant | thionyl chloride | 8.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-hydroxymethyl-1-methyl-1H-1,2,4-triazole | 0.80 g | OCC1=NC=NN1C | C4H7N3O
product | 5-chloromethyl-1-methyl-1H-1,2,4-triazole hydrochloride | 1.1 g | Cl.ClCC1=NC=NN1C | InChI=1S/C4H6ClN3.ClH/c1-8-4(2-5)6-3-7-8;/h3H,2H2,1H3;1H
